US09447084B2
1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one
Into a 25-mL round-bottom flask, was placed 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]imidazolidin-4-one (150 mg, 0.26 mmol, 1.00 equiv), N,N-dimethylformamide (10 mL), 1,1,1-trifluoro-3-iodopropane (114 mg, 0.51 mmol, 2.01 equiv), Cs2CO3 (166 mg, 0.51 mmol, 1.98 equiv). The resulting solution was stirred overnight at 50° C. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 3×10 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a TLCplate with ethyl acetate/petroleum ether (1:1). This resulted in 22.3 mg (12%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one as a light yellow solid. (ES, m/z): [M+CH3CN]− 726.0; 1H NMR (300 MHz, CDCl3): δ7.86-7.98 (m, 5H), 7.63 (d, J=8.1 Hz, 1H), 5.14 (s, 1H), 4.78 (s, 1H), 4.15-4.42 (m, 3H), 3.57-3.92 (m, 5H), 2.40-2.66 (m, 2H).

reactant | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]imidazolidin-4-one | 0.26 mmol, 150 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)CC(F)(F)F)C(F)(F)F | C23H15ClF9N3O3
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | 1,1,1-trifluoro-3-iodopropane | 0.51 mmol, 114 mg, 2.01 equiv | FC(CCI)(F)F | C3H4F3I
reactant | Cs2CO3 | 0.51 mmol, 166 mg, 1.98 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | CC#N | C2H3N
product | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]-3-(3,3,3-trifluoropropyl)imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CN(C(C1)=O)CCC(F)(F)F)CC(F)(F)F)C(F)(F)F | C26H18ClF12N3O3
